US06956047B1
[4-(1-Ethyl-propoxy)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-pyridin-3-yl]-imidazol-1-yl-methanone
To a solution of 4-(1-ethyl-propoxy)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-nicotinic acid (250 mg, 0.701 mmmol) in 2 ml of DMF was added carbonyldiimidazole (190 mg, 1.19 mmol) and the resulting mixture was stirred at room temperature overnight. After standard workup procedure and silica gel column chromatography, 260 mg (91.2%) of the title compound was obtained as a golden crystal, mp. 120-122° C., Anal. For C24H30N4O2.¼H2O calc: C, 70.13; H, 7.48; N, 13.63; Found: C, 70.06; H, 7.69; N, 13.37.

reactant | 4-(1-ethyl-propoxy)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-nicotinic acid | 250 mg | C(C)C(CC)OC1=CC(=NC(=C1C(=O)O)NC1=C(C=C(C=C1C)C)C)C | C21H28N2O3
reactant | carbonyldiimidazole | 1.19 mmol, 190 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | [4-(1-Ethyl-propoxy)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-pyridin-3-yl]-imidazol-1-yl-methanone | 260 mg, 91.2% | C(C)C(CC)OC1=C(C(=NC(=C1)C)NC1=C(C=C(C=C1C)C)C)C(=O)N1C=NC=C1 | C24H30N4O2
